US05126065
In a 1-liter four-necked flask equipped with a Dimorth reflux condenser and a thermometer, 300 ml of cyclopentadiene and 200 ml of n-hexane was placed, and 250 ml of methyl acrylate was added dropwise over one hour while cooled on an ice bath and stirred, and then stirred for a further 30 minutes, to obtain 2-methoxycarbonyl-5-norbornene.

reactant | cyclopentadiene | 300 ml | C1=CC=CC1 | C5H6
reactant | methyl acrylate | 250 ml | C(C=C)(=O)OC | C4H6O2
reactant | n-hexane | 200 ml | CCCCCC | C6H14
product | 2-methoxycarbonyl-5-norbornene | COC(=O)C1C2C=CC(C1)C2 | C9H12O2
